US04200758
To a solution of 2,4-dioxo-1-propargyl-3-imidazolidine-carbaldehyde (1.8 mmol) in 25 ml of ether is added 25 ml of water followed by sodium cyanide (3.04 mmol). The mixture is stirred vigorously while a solution of sodium bisulfite (2.45 mmol) in 15 ml of water is added over about 5 minutes. The reaction mixture is stirred for two hours. The organic phase is separated, washed with water, dried over calcium sulfate and solvent evaporated to give cyano(2,4-dioxo-1-propargyl-3-imidazolidinyl)methanol.

reactant | 2,4-dioxo-1-propargyl-3-imidazolidine-carbaldehyde | 1.8 mmol | O=C1N(CC(N1C=O)=O)CC#C | C7H6N2O3
reactant | sodium cyanide | 3.04 mmol | [C-]#N.[Na+]
reactant | sodium bisulfite | 2.45 mmol | S([O-])(O)=O.[Na+]
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | water | 15 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | cyano(2,4-dioxo-1-propargyl-3-imidazolidinyl)methanol | C(#N)C(O)N1C(N(CC1=O)CC#C)=O | C8H7N3O3
